Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Pentasa
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
Diagnostic paracentesis ___
Therapeutic paracentesis ___
ERCP with stent placement and brushings ___

 
History of Present Illness:
___ h/o DM I, IBD s/p colectomy w/ IPAA, hypothyroid, presenting 
to ED ___) ___ with abdominal pain and 25 lbs 
weight loss over ___ months.  Admitted to ___ on 
___ with n/v and abdominal pain. Has been having abdominal 
pain since this ___ characterized by early satiety 
and bloating. He had been seen by Dr. ___ and 
undergone extensive workup with imaging and no obvious etiology 
found. He underwent EGD/pouchoscopy/push enteroscopy ___ 
showed duodenitis and ulcers in pouch more suggestive of crohns 
than pouchitis.  He was continued on his budenoside and had 
discussed starting ___, so PPD was placed and was negative. 
Chest xray was normal as well. CT of abdomen and pelvis on ___ 
did not show biliary ductal dilation, and pancreas was normal.  
He was discharged after improvement in symptoms but re-admitted 
on ___ with elevated LFTs (Tbili 14.8, AST 298, ALP 947, ALT 
459), ___ 347. RUQ at thetime showed a dilated CBD and he 
underwent ERCP on ___ which showed irregularity and narrowing 
of CHD.  Brushings of CHD stricture obtained, dilated 10 mm and 
___ FR x 7 cm stent placed with presumptive dx of PSC. After 
stent placement his nausea and pain was greatly improved, LFT'S 
trended down and he was tolerating po intake.   

Since his last discharge, he has been taking percocet as needed 
at states this usually controls his pain. He saw Dr. ___ 
referred him to Dr. ___ further evaluation. He was in 
the endoscopy suite today when his pain became very severe and 
ERCP was not done and subsequently underwent CT iamging to rule 
out surgical abdomen

On the floor, he is complaining about pain mostly in the RUQ and 
RLQ. This is his usual location of pain. Rated ___. 

 
Past Medical History:
IBD s/p colectomy with ileoanal pouch and reversal
Erosive duodenitis ___ IBD
Pouchitis ___ IBD
Diabetes Mellitus I
Hypothyroidsism
Vitamin D deficiency

IMAGING Hx @ OSH:
___: CT abdomen/pelvis ___
-No acute process. Prior bowel resections and anastomoses. 
Possibly contracted gallbladder of uncertain clinical 
significance.
___: abdominal ___:
-Normal liver architecture, contracted gallbladder,CBD 3.0mm in 
diameter, pancreas unremarkable, no hydronephrosis. Doppler 
unremarkable
___ ___: j pouch with multiple 
ulcers. biopsies taken. normal ileoanal ___ biopsied. 
erythematous and ulcerated mucosa in neo-terminal 
ileum-biopsied. Findings of chron's rather than pochitis
___ small bowel ___: no e/o 
significant pathology in the proximal jejenum. Biopsies taken. 
normal stomach mucosa: antral biopsies taken. non-specific 
duodenitis in bulb, otherwise normal first, ___ and ___ part 
of the duodenum. normal esophagus. Regular Z-line
___ ___
-Debris filling the common bile duct with mild proximal biliary 
ductal dilation, concerning for obstruction. 
___: Plain film of abdomen single ___
-no radiographic evidence of ileus or obstruction.
___ ___
-Irregularity and narrowing of the proximal common hepatic duct 
suggesting strictures

 
Social History:
___
Family History:
1 Brother with DM I and other autoimmune problems
Father and sister with DM II
Mom deceased with emphysema

 
Physical Exam:
VITALS:   97.8 158/83 p59 rr18 100%RA
GENERAL:Alert and oriented x 3. NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclerae,
nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: protuberant but soft. ?ventral hernia. hypoactive bowel 
sounds. TTP in RLQ and RUQ but no rebound or guarding.
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

Discharge exam:
Afebrile, BPs 140s-150s/80s, otherwise stable and unchanged
No icterus
distended abdomen, soft with BS, minimal TTP in the RLQ, no 
peritoneal signs
rest of the exam unchanged
 
Pertinent Results:
Admit labs:
___ 01:24PM BLOOD WBC-12.0* RBC-4.35* Hgb-13.2* Hct-38.9* 
MCV-90 MCH-30.5 MCHC-34.0 RDW-13.9 Plt ___
___ 06:25AM BLOOD Neuts-80.4* Lymphs-12.1* Monos-4.7 
Eos-2.3 Baso-0.5
___ 06:25AM BLOOD WBC-8.3 RBC-4.11* Hgb-12.1* Hct-37.3* 
MCV-91 MCH-29.5 MCHC-32.5 RDW-14.4 Plt ___
___ 06:25AM BLOOD ___ PTT-30.9 ___
___ 01:24PM BLOOD UreaN-13 Creat-0.9 Na-134 K-4.1 Cl-95* 
HCO3-26 AnGap-17
___ 06:25AM BLOOD Glucose-215* UreaN-9 Creat-0.9 Na-137 
K-4.2 Cl-101 HCO3-24 AnGap-16
___ 01:24PM BLOOD ALT-105* AST-128* AlkPhos-333* Amylase-24 
TotBili-1.4 DirBili-0.8* IndBili-0.6
___ 06:25AM BLOOD ALT-79* AST-76* LD(LDH)-152 AlkPhos-310* 
TotBili-1.4
___ 06:25AM BLOOD Albumin-3.3* Calcium-8.0* Phos-2.8 Mg-1.8
___ 11:21AM BLOOD CEA-11*

Discharge labs:

___ 06:25AM BLOOD WBC-8.3 RBC-4.11* Hgb-12.1* Hct-37.3* 
MCV-91 MCH-29.5 MCHC-32.5 RDW-14.4 Plt ___
___ 07:00AM BLOOD WBC-10.2 RBC-4.16* Hgb-12.3* Hct-37.8* 
MCV-91 MCH-29.7 MCHC-32.7 RDW-14.6 Plt ___
___ 06:14AM BLOOD WBC-13.4* RBC-4.11* Hgb-12.3* Hct-37.7* 
MCV-92 MCH-29.9 MCHC-32.5 RDW-14.3 Plt ___
___ 06:21AM BLOOD WBC-16.3* RBC-4.17* Hgb-12.6* Hct-39.3* 
MCV-94 MCH-30.2 MCHC-32.0 RDW-13.4 Plt ___
___ 07:00AM BLOOD Glucose-210* UreaN-10 Creat-0.8 Na-133 
K-4.2 Cl-96 HCO3-27 AnGap-14
___ 06:14AM BLOOD Glucose-286* UreaN-9 Creat-0.8 Na-130* 
K-4.6 Cl-91* HCO3-20* AnGap-24*
___ 06:21AM BLOOD Glucose-364* UreaN-12 Creat-0.9 Na-128* 
K-5.3* Cl-89* HCO3-16* AnGap-28*
___ 06:25AM BLOOD ALT-92* AST-110* AlkPhos-434* 
TotBili-2.2*
___ 06:14AM BLOOD ALT-86* AST-76* AlkPhos-407* TotBili-2.2*
___ 06:21AM BLOOD ALT-76* AST-49* AlkPhos-425* TotBili-2.6*
___ 11:21AM BLOOD CA ___ -Test  

___ CT abd/pelvis:
1. Infiltrative soft tissue mass at the porta hepatis causing 
short segment narrowing of the main portal vein and encasing the 
hepatic artery. Appearance is suspicious for cholangiocarcinoma. 
More definitive diagnosis might be achieved with tissue sampling 
via endoscopic ultrasound. 
2. No intrahepatic biliary dilatation with CBD stent in place. 
3. Large volume ascites. 
4. Evidence of prior colectomy with small bowel anastomosis in 
the right lower quadrant. 
    
 
Brief Hospital Course:
This is a ___ old gentleman with hx of IBD presenting with 
ongoing abdominal pain over months. Issues summarized by problem 
below.  

#Abdominal pain, ongoing: Most likely of hepatobiliary etiology. 
Pt with ongoing pain and weight loss for several months.  He has 
had a work-up at two outside hospitals, including a recent ERCP 
with findings of presumed PSC, s/p stent placement after 
presenting with biliary obstruction.  At the OSH, his bilirubin 
was down to normal after stent placement.  He was subsequently 
referred to ___ for ongoing work-up of this pain; however ERCP 
on the first day was deferred given severity of pain.  CT 
abd/pelvis was obtained which demonstrated large volume ascites 
and a hilar mass at the porta hepatis encasing the vasculature, 
concerning for malignancy.  He underwent an ERCP with brushings 
of a stricture and the prior stent was replaced.  Cytology was 
still PENDING upon discharge.  He was seen by the ___ 
surgical service and plans were made for follow-up in the 
___ clinic on ___, ___.  In 
regards to his pain, he initially required IV dilaudid as he 
wasn't able to take po; this was transitioned to oral dilaudid 
as oral oxycodone was not effective.  Consideration should be 
given to a long-acting pain medication should his pain continue 
to be a significant issue - this was not done in-house as the 
patient was determined to leave on ___ and was not on a 
long-acting oral agent during his stay.  His labs on the day of 
discharge were notable for a rising white count and rising 
bilirubin.  The patient was asymptomatic but counseled 
extensively regarding our concerns - he elected to still leave 
the hospital on ___ and will get follow-up labs with his 
outside GI on ___.  He will complete his 5-day course of cipro 
that was started after ERCP.   

#Ascites: There was a noted lesion in the hepatic hilum on CT 
imaging causing narrowing of portal vein which was concerning 
for causing his ascites. Liver did not appear cirrhotic on 
imaging. He underwent U/S with dopplers which showed no 
thrombosis.  Diagnostic paracentesis was done ___ with SAAG of 
<1.1 less concerning for cirrhotic disease but rather 
malignacy/peritoneal carcinamotsis.  He underwent a therapeutic 
para on ___ of 4.7 liters.  He was started on spironolactine 
50 mg twice daily to see if this would help with the ascites.  
Lasix was not started given ongoing issues with hydration 
in-house and the risk of dehydration at home.  His labs on the 
day of discharge were concerning for worsening dehydration as 
well as mild hyperkalemia; the patient still elected to leave 
and will get labs with his outside GI MD on ___. 

#DM type 1: on lantus and humalog at home; doses of both were 
reduced initially due to NPO status and highly variable oral 
intake (patient not eating consistently most days of his 
inpatient stay).  His sugars rose to 340s on the day of 
discharge; full dose lantus and humalog were given.  His 
corrected sodium was 132 on the day of discharge.  His sugar was 
in the mid ___ prior to discharge and he will continue with his 
regimen.  He was counseled about the interaction of cipro with 
insulin and the risk of hypoglycemia. 

#IBD s/p colectomy with duodenitis and pouchitis: Was most 
currently on budesonide 9mg po daily and this was continued

#Hypothyroidism: ContinueD Levothyroxine 175mcg daily

#Elevated BP: Improved from admission. BP likely elevated due to 
pain
Patient denies hx of HTN. Was on Lisinopril in the past for 
renal protection ___ diabetes.  As his blood pressure remained 
stable between 140-150 systolic, anti-HTN were deferred, 
although he is now on spironolactone for his ascites.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NexIUM (esomeprazole magnesium) 40 mg oral daily 
2. Lantus (insulin glargine) 25 units subcutaneous qam 
3. Budesonide 9 mg PO DAILY 
4. Erythromycin 333 mg PO TID 
5. Levothyroxine Sodium 175 mcg PO DAILY 
6. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
7. HumaLOG (insulin lispro) 25 units subcutaneous TID/pre meals 

 
Discharge Medications:
1. Budesonide 9 mg PO DAILY 
2. Levothyroxine Sodium 175 mcg PO DAILY 
3. HumaLOG (insulin lispro) 25 units subcutaneous TID/pre meals 
4. Lantus (insulin glargine) 25 units subcutaneous qam 
5. NexIUM (esomeprazole magnesium) 40 mg oral daily 
6. Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Doses 
Last dose on eveing of ___ 
RX *ciprofloxacin 500 mg one tablet(s) by mouth twice daily Disp 
#*5 Tablet Refills:*0
7. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every three hours 
as needed for pain Disp #*112 Tablet Refills:*0
8. Spironolactone 50 mg PO BID 
RX *spironolactone 50 mg one tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0
9. Senna 8.6 mg PO BID:PRN Constipation 
RX *sennosides [senna] 8.6 mg one tablet by mouth twice daily 
Disp #*60 Tablet Refills:*0
10. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg one tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*0
11. Outpatient Lab Work
Please check CBC, Chemistries 10 (NA, K, HCO3, CL, BUN, Cr, 
Glc), ALT, AST, Alkaline phos, Total bilirubin.  Please send 
results to Dr. ___ ___.  ICD-9 code: 
___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hepatobiliary mass
Ascites
Abdominal pain
Type I Diabetes on insulin
IBD
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a privielege caring for you here at ___. You came in 
for an ERCP procedure but had to be admitted because your belly 
pain got worse. After underhoing testing we found that you have 
a new mass in the biliary area causing some level of obstruction 
as well as most likely causing the fluid in your abdomen.  You 
underwent an ERCP with biopsies; these results are still 
pending.  You also underwent drainage of the fluid twice - first 
time with 1 liter removed, the second time with 4.7 L removed.  
There is no evidence of infection; cytology from the fluid 
though is still pending.  

You were started on Spirinolactone, a medication to help remove 
some of this fluid.  This medication can cause high potassium, 
so it is imperative you get your potassium rechecked on ___. 

You have an appointment with Dr. ___ team on ___ in the 
___ please keep this appointment.

You were started on oral dilaudid for pain control; please note 
this medication causes sleepiness and constipation.  Do not 
drink or drive while taking this medication; you are also being 
discharged on a bowel regimen to help prevent constipation.

You have been on antibiotics since the procedure to help prevent 
an infection.  This antibiotic does interact with insulin and 
can cause LOW sugars, so please monitor your sugars closely and 
frequently as you may need to decrease your insulin dose.  This 
antibiotic also rarely causes pain and rupture of the Achilles' 
tendon; if you get pain at the heels, please stop this 
medication.  You have 5 MORE doses of this medication - last 
dose on ___ evening.  Please note you need 
space the cipro and levothyroxine apart by approximately 4 hours 
given the interaction. 

Lastly, your blood work on the day of discharge was concerning 
for possible infection, dehydration, and slightly elevated 
potassium.  You were advised to stay in the hospital for an 
additional day so we could monitor your labs, give you fluids, 
and ensure these labs were not worsening (which they have done 
since ___.  you have elected to leave the hospital today and 
expressed understanding of the risks of infection, dehydration, 
and worsening potassium.  We have discussed that you will get 
these labs rechecked on ___ through your GI doctor, 
___ provided).  The ERCP team is also aware and 
also recommends you stay today. In addition, we are concerned 
about the rising liver tests - again, we recommend you stay for 
continued evaluation of this.   
 
Followup Instructions:
___